US08802690B2
To a mixture of 7-chloro-1H-indazole-5-carbonitrile (1.36 g, 7.66 mmol) in ethanol (52.5 mL) was added water (17.5 mL) and potassium hydroxide (6.44 g. 115 mmol). The reaction mixture was heated at reflux for 16 hours. The reaction mixture was cooled to room temperature, extracted twice with ethyl ether, acidified the aqueous with 1N hydrochloric acid and the resultant precipitate was filtered to afford 7-chloro-1H-indazole-5-carboxylic acid as a brown solid (900 mg, 60%): −ESI MS (M−H) 1952.

reactant | 7-chloro-1H-indazole-5-carbonitrile | 7.66 mmol, 1.36 g | ClC=1C=C(C=C2C=NNC12)C#N | C8H4ClN3
reactant | water | 17.5 mL | O | H2O
reactant | potassium hydroxide | 115 mmol, 6.44 g | [OH-].[K+]
solvent | ethanol | 52.5 mL | C(C)O | C2H6O
product | 7-chloro-1H-indazole-5-carboxylic acid | 900 mg, 60% | ClC=1C=C(C=C2C=NNC12)C(=O)O | C8H5ClN2O2
